US05124336
Preparation of ethyl 4-formyl-3,3-dimethylbutanoate:
40 g of the acid chloride ethyl ester of 3,3-dimethylglutaric acid, prepared in Example 28, are dissolved in 400 ml of tetrahydrofuran. 2 g of 5% palladium-on-charcoal and 22.8 ml of 2,6-lutidine are added and the mixture is hydrogenated at normal pressure and room temperature. When the absorption of hydrogen has ceased, the catalyst is filtered off and the solvent is evaporated off under vacuum. The residue is taken up with water and extracted with ether. The ether phase is washed with a dilute solution of hydrochloric acid in the cold, washed with a solution of sodium bicarbonate in the cold, dried over magnesium sulfate and evaporated under vacuum to give, after distillation of the residue, 18 g of ethyl 4-formyl-3,3-dimethylbutanoate in the form of a liquid with a boiling point b.p.20 of 112°-118° C.

reactant | 3,3-dimethylglutaric acid | CC(CC(=O)O)(CC(=O)O)C | C7H12O4
reactant | 2,6-lutidine | 22.8 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | ethyl 4-formyl-3,3-dimethylbutanoate | C(=O)CC(CC(=O)OCC)(C)C | C9H16O3
